US07816526B2
Synthesis of 2-ethyl-6-methylimidazo[1,2-b]pyridazine
3-Amino-6-methylpyridazine (4.00 g, 27.5 mmol) and 1-bromo-2-butanone (90%, 7.38 g, 44.0 mmol) were heated in 1-propanol (40.0 ml) for 13 hours under reflux. The reaction solution was cooled to room temperature and concentrated under reduced pressure, and then the residues were dissolved in acetone (50.0 ml) and neutralized with 20% aqueous sodium hydroxide solution. The reaction solution was concentrated under reduced pressure, and then the residues were dissolved in chloroform, dried over anhydrous magnesium sulfate and concentrated. The residues were purified by silica gel column chromatography (isopropanol:hexane=1:2), to give the title compound as gray crystals. The yield was 2.33 g (39.4%).

reactant | 3-Amino-6-methylpyridazine | 27.5 mmol, 4.00 g | NC=1N=NC(=CC1)C | C5H7N3
reactant | 1-bromo-2-butanone | 44.0 mmol, 7.38 g | BrCC(CC)=O | C4H7BrO
solvent | 1-propanol | 40.0 ml | C(CC)O | C3H8O
product | 2-ethyl-6-methylimidazo[1,2-b]pyridazine | C(C)C=1N=C2N(N=C(C=C2)C)C1 | C9H11N3
